US06355800B1
N-Acetylpiperazine (25.0 g) was added to water (100 ml) and dissolved under stirring at ambient temperature. Then, the solution was adjusted to pH 3.0 with 6 N hydrochloric acid (about 33 ml). After the solution was cooled, sodium isocyanate (15.2 g) was added in one portion thereto at a temperature of 5 to 10° C. Thereafter, the mixture was reacted for 4 hours at ambient temperature and then cooled on ice to −2 to 2° C. The mixture was stirred at the same temperature for 2 hours to precipitate 4-acetyl-1-piperazinecarboxamide crystals. The crystals were collected at the same temperature by filtration, washed with cold water (25 ml) and dried under reduced pressure to give primary crystals of 4-acetyl-1-piperazinecarboxamide (17.7 g). The mother liquor containing the primary crystals was concentrated to 63 ml under reduced pressure and then stirred at −2 to 2° C. for 2 hours to precipitate secondary crystals of 4-acetyl-1-pipeazinecarboxamide. The crystals were collected at the same temperature by filtration, washed with cold water (13 ml) and dried under reduced pressure to give secondary crystals of 4-acetyl-1-piperazinecarboxamide (9.3 g). NMR (DMSO-d6, δ): 2.00 (3H, s), 3.21-3.41 (8H, m), 6.04 (2H, Broad s)

reactant | N-Acetylpiperazine | 25.0 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | hydrochloric acid | 6 N, about 33 ml | Cl | ClH
reactant | sodium isocyanate | 15.2 g | [N-]=C=O.[Na+]
solvent | water | 100 ml | O | H2O
product | 4-acetyl-1-piperazinecarboxamide | 17.7 g | C(C)(=O)N1CCN(CC1)C(=O)N | C7H13N3O2
